US07144908B2
ii) 1-(3-Iodobenzyl)imidazolidine-2,4-dione
Ethyl N-(3-iodobenzyl)glycinate (0.567 g) was treated with 1M HCl (3.9 ml) and sodium cyanate (0.345 g) and then refluxed for 30 min. Concentrated HCl (4.5 ml) was added and the reaction mixture refluxed again for 30 min. The reaction mixture was evaporated under reduced pressure and then triturated with EtOAc (3×20 ml). The combined extracts were dried (Na2SO4) and evaporated under reduced pressure to give the title compound (0.543 g). LCMS RT 2.63 min.

reactant | Ethyl N-(3-iodobenzyl)glycinate | 0.567 g | IC=1C=C(CNCC(=O)OCC)C=CC1 | C11H14INO2
reactant | HCl | 1M, 3.9 ml | Cl | ClH
reactant | sodium cyanate | 0.345 g | [O-]C#N.[Na+]
reactant | HCl | 4.5 ml | Cl | ClH
product | 1-(3-Iodobenzyl)imidazolidine-2,4-dione | 0.543 g | IC=1C=C(CN2C(NC(C2)=O)=O)C=CC1 | C10H9IN2O2
